US07196090B2
1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(2,6-difluoro-3-hydroxy-5-methoxy phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
To a solution of sodium ethylthiolate [generated from sodium hydride (200 mg, 8.32 mmol) and ethanethiol (616 μL, 8.32 mmol) in dimethylformamide (20 mL)], 1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one in dimethylformamide (8 mL) was added. The resulting solution was then stirred at 75° C. for 90 minutes. The solvent was removed under reduced pressure to afford a light brown oil. Dichloromethane (100 mL) and water (20 mL) were added. The bilayer thus afforded was then stirred vigorously while 4 N hydrochloric acid was added. Enough hydrochloric acid was added until the aqueous layer reached pH=5. The layers were separated; the aqueous layer was extracted with dichloromethane (2×80 mL). The organic layers were combined and set aside. Saturated aqueous sodium chloride (20 mL) was to the aqueous layers and was extracted with ethyl acetate (2×80 mL). The organic layers were combined, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. To the yellow oil (794 mg) thus afforded, hexanes were added to remove non-polar impurities. The supernatant was removed, and the remaining residue was placed in vacuo. The oil was purified via reverse phase HPLC to give the title compound (289 mg, 54%) as a clear amber gum: MS (APCI) 519.2, 520.2.

reactant | 1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)NCCCCN(CC)CC)C2=C(C(=CC(=C2F)OC)OC)F)=O | C27H38F2N6O3
reactant | Dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | water | 20 mL | O | H2O
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(2,6-difluoro-3-hydroxy-5-methoxy phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 794 mg | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)NCCCCN(CC)CC)C2=C(C(=CC(=C2F)OC)O)F)=O | C26H36F2N6O3
